US07919628B2
38 mg 2-({1-[(E)-2-(4-chloro-phenyl)-vinyl]-naphthalene-2-carbonyl}-amino)-2-methyl-propionic acid methyl ester were dissolved in 3 ml of MeOH and 1 ml of water was added. After addition of 5 mg of LiOH.H2O the reaction was stirred at room temperature for 14 h. Filtration of the crude mixture, RP-HPLC and freeze-drying gave 35 mg of 2-({1-[(E)-2-(4-Chloro-phenyl)-vinyl]-naphthalene-2-carbonyl}-amino)-2-methyl-propionic acid (96%).

reactant | 2-({1-[(E)-2-(4-chloro-phenyl)-vinyl]-naphthalene-2-carbonyl}-amino)-2-methyl-propionic acid methyl ester | 38 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)\C=C\C1=CC=C(C=C1)Cl)=O | C24H22ClNO3
reactant | water | 1 ml | O | H2O
reactant | LiOH.H2O | 5 mg | O[Li].O
solvent | MeOH | 3 ml | CO | CH4O
product | 2-({1-[(E)-2-(4-Chloro-phenyl)-vinyl]-naphthalene-2-carbonyl}-amino)-2-methyl-propionic acid | 35 mg, 96% | ClC1=CC=C(C=C1)/C=C/C1=C(C=CC2=CC=CC=C12)C(=O)NC(C(=O)O)(C)C | C23H20ClNO3
